US04610984
4-(4-Methoxybenzoyl)-piperazin-1-yl-acetic acid pyrrolidide hydrochloride
9.4 g of piperazin-1-yl-acetic acid pyrrolidide are dissolved in 10 ml of methylene chloride. A solution of 8.75 g of anisic acid chloride in 10 ml of methylene chloride is added dropwise at 0°. After the mixture had been stirred at 25° C. for 60 minutes, the crystals are filtered off with suction and dried in vacuo.

reactant | piperazin-1-yl-acetic acid pyrrolidide | 9.4 g | N1(CCNCC1)CC(=O)N1CCCC1 | C10H19N3O
reactant | anisic acid chloride | 8.75 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Methoxybenzoyl)-piperazin-1-yl-acetic acid pyrrolidide hydrochloride | Cl.COC1=CC=C(C(=O)N2CCN(CC2)CC(=O)N2CCCC2)C=C1 | InChI=1S/C18H25N3O3.ClH/c1-24-16-6-4-15(5-7-16)18(23)21-12-10-19(11-13-21)14-17(22)20-8-2-3-9-20;/h4-7H,2-3,8-14H2,1H3;1H
